US07393852B2
Preparation XIX—7-(tert-butylamino-methyl)-6-chloro-chroman-4(S)-ol
To a stirred solution of (1S,2S)-(+)-N-(4-toluene-sulfonyl)-1,2-diphenylethylenediamine (0.29 g, 8.08 mmol) in i-PrOH (15 mL) was added [RuCl2(n6-p-cymene)]2, and Et3N under argon. The mixture was heated at 80° C. for 1 h, cooled, and concentrated to dryness. To this mixture was added a solution of 7-(tert-butylamino-methyl)-6-chloro-chroman-4-one (12 g, 44.91 mole) in anhydrous CH3CN (150 mL), followed by 5:2 formic acid/TEA (6 mL). The reaction was stirred at RT for 24 h. The mixture was concentrated, taken up in H2O, neutralized with 10% Na2CO3, extracted with CH2Cl2 (3×), dried over MgSO4, concentrated to give a brown foam which was stirred in hexane/ether (1:1), and filtered. The filtrate was concentrated to give a light brown foam.

reactant | (1S,2S)-(+)-N-(4-toluene-sulfonyl)-1,2-diphenylethylenediamine | 8.08 mmol, 0.29 g | C1(=CC=C(C=C1)S(=O)(=O)N[C@H]([C@@H](N)C1=CC=CC=C1)C1=CC=CC=C1)C | C21H22N2O2S
reactant | Et3N | CCN(CC)CC | C6H15N
reactant | 7-(tert-butylamino-methyl)-6-chloro-chroman-4-one | 44.91 mole, 12 g | C(C)(C)(C)NCC1=C(C=C2C(CCOC2=C1)=O)Cl | C14H18ClNO2
solvent | i-PrOH | 15 mL | CC(C)O | C3H8O
solvent | CH3CN | 150 mL | CC#N | C2H3N
solvent | hexane ether | CCCCCC.CCOCC
product | 7-(tert-butylamino-methyl)-6-chloro-chroman-4(S)-ol | C(C)(C)(C)NCC1=C(C=C2[C@H](CCOC2=C1)O)Cl | C14H20ClNO2
